US08183246B2
6-[(5-Bromo-6-phenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester
Put 1.75 g (5.15 mmol) 6-[(6-phenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester in 5.2 ml tetrachloromethane. At RT, add 1.054 g (5.92 mmol) N-bromosuccinimide and then heat the mixture under reflux for approx. 1 h. After cooling, concentrate by vacuum evaporation and chromatograph the residue on silica gel (solvent: cyclohexane/ethyl acetate 4:1). 0.89 g (41.2% of theor.) of the target compound is obtained.

reactant | 6-[(6-phenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester | 5.15 mmol, 1.75 g | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2)C2=CC=CC=C2)=O | C19H21N3O3
reactant | N-bromosuccinimide | 5.92 mmol, 1.054 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloromethane | 5.2 ml | ClC(Cl)(Cl)Cl | CCl4
product | 6-[(5-Bromo-6-phenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2Br)C2=CC=CC=C2)=O | C19H20BrN3O3
